US08877782B2
6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-N-(tetrahydro-pyran-4-yl)-4-trifluoromethyl-nicotinamide
As described for example 12, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-4-trifluoromethyl-nicotinic acid (200 mg, 0.53 mmol) instead of 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid was converted using 4-aminotetrahydropyran instead of 2,2,2-trifluoroethylamine to the title compound (SiO2, ethyl acetate:dichloromethane=50:50 to 100:0, 109 mg, 45%) which was obtained as a white solid. MS: m/e=462.2 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-4-trifluoromethyl-nicotinic acid | 0.53 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C(=C1)C(F)(F)F | C18H13F3N2O4
reactant | 4-aminotetrahydropyran | NC1CCOCC1 | C5H11NO
product | 6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-N-(tetrahydro-pyran-4-yl)-4-trifluoromethyl-nicotinamide | 109 mg, 45% | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)NC2CCOCC2)C(=C1)C(F)(F)F | C23H22F3N3O4
